US05162505
a) Preparation of tert-butyl 8-hydroxy -3,6- dioxaoctanoate
A solution of 53 g of 2-hydroxyethyl ether (0.5 mol) in 200 mL of tetrahydrofuran was prepared, and the solution cooled in an ice-water bath. The solution was placed under a slow stream of argon. Sodium bis(trimethylsilyl)amide (125 mL, 0.125 mol, 1 M in tetrahydrofuran) was added dropwise over a 30 minute period. The mixture was stirred an additional 30 minutes, then 24.4 g of tert-butyl 2-bromoacetate (0.125 mol) was added. The mixture was then stirred for 1 hour. The ice-water bath was removed, and the mixture transferred to a separatory funnel using 250 mL of 1 M NaH2PO4. The mixture was extracted with ethyl acetate (3×150 mL). The combined extracts were dried over sodium sulfate, filtered, and the solvent removed by rotary evaporator to give a clear yellow liquid. The liquid was purified by chromatography using 500 mL of silica gel and eluting with ethyl acetate/hexanes 1:1. The product was isolated as a clear, gold liquid. Obtained 5.49 g TLC Rf 0.50 (EtOAc). NMR (DMSO-d6)δ 1.42 (s, 9H), 3.42 and 3.54 (m, 8H), 3.98 (s, 2H).

reactant | 2-hydroxyethyl ether | 0.5 mol, 53 g | OCCOCCO | C4H10O3
reactant | Sodium bis(trimethylsilyl)amide | 0.125 mol, 1 M, 125 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 2-bromoacetate | 0.125 mol, 24.4 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | tert-butyl 8-hydroxy -3,6- dioxaoctanoate | OCCOCCOCC(=O)OC(C)(C)C | C10H20O5
